US03931407
1-(4-Acetoxy-3-carboxyphenyl)-2-phenylindole ##SPC39##
A mixture of 8.25 g. (0.025 mole) of 1-(3-carboxy-4-hydroxyphenyl)-2-phenylindole and 76.5 g. (0.75 mole) of acetic anhydride was heated under reflux for 1 hour, diluted with 75 ml. of tetrahydrofuran and poured into 1 l. of water. An oil separated, and during 2 days solidified. The solid was collected and recrystallized from acetonitrile to provide 4.8 g. (52%) of colorless crystals, m.p. 178°-180°.

reactant | 1-(3-carboxy-4-hydroxyphenyl)-2-phenylindole | 0.025 mole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C21H15NO3
reactant | acetic anhydride | 0.75 mole | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(4-Acetoxy-3-carboxyphenyl)-2-phenylindole | C(C)(=O)OC1=C(C=C(C=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1)C(=O)O | C23H17NO4
